US04999448
Preparation of (3-Chloro-2-methoxymethoxyphenyl)(2-methoxymethoxyphenyl)methanol
A 1.6M solution of n-butyl lithium in hexane (140 ml) was placed in a 1 1 flask and cooled in an ice bath. To this was added with stirring 34 ml of tetramethylethylenediamine and, after a 10 min reaction period, 34.5 g of 1-chloro-2-methoxymethoxybenzene (dropwise over a 30 min period). A pale orange suspension formed and this was stirred for 4 hours continuing the ice bath cooling. A solution of 34.5 g of 2-methoxymethoxybenzaldehyde in 30 ml of tetrahydrofuran was added with stirring and cooling. The reaction was exothermic. When the addition was complete, the mixture was allowed to warm to room temperature and was then quenched carefully with water. The resulting mixture was poured into a mixture of 1 l of ethyl acetate and 500 ml of aqueous ammonium chloride. The phases were separated and the organic phase was extracted twice with water and once with brine, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain a viscous, pale orange oil. This was purified by filtration chromatography, eluting with mixtures of hexane and dichloromethane starting with pure hexane and ending with pure dichloromethane, to obtain 52.2 g (77 percent of theory) of the title compound as a pale yellow oil. The proton and carbon NMR and infrared spectra were consistent with the assigned structure.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | tetramethylethylenediamine | 34 ml | CN(CCN(C)C)C | C6H16N2
reactant | 1-chloro-2-methoxymethoxybenzene | 34.5 g | ClC1=C(C=CC=C1)OCOC | C8H9ClO2
reactant | 2-methoxymethoxybenzaldehyde | 34.5 g | COCOC1=C(C=O)C=CC=C1 | C9H10O3
solvent | hexane | 140 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (3-Chloro-2-methoxymethoxyphenyl)(2-methoxymethoxyphenyl)methanol | ClC=1C(=C(C=CC1)C(O)C1=C(C=CC=C1)OCOC)OCOC | C17H19ClO5
